US06733551B2
Comparative Formulation Compatibility and Air Sensitivity With Tetrapropenylsuccinic Anhydride
The experiments in Example 3 were repeated with tetrapropenylsuccininc anhydride (DDSA) instead of oleic acid. DDSA was supplied by Milliken Chemicals and had a neutralization number of 406 mg KOH/g. Milliken uses C12 branched-chain olefin derived from propylene tetramer to make DDSA.

reactant | DDSA | CCCCCCCCCC/C=C/C1CC(=O)OC1=O | C16H26O3
reactant | KOH | 406 mg | [OH-].[K+]
reactant | propylene tetramer | CC#C | C3H4
product | Tetrapropenylsuccinic Anhydride | C(=CC)C1(C(C(=O)OC1=O)(C=CC)C=CC)C=CC | C16H20O3
